US08563735B2
(2-bromo-4,4-dimethylcyclohex-1-enyl)methanol
N,N-dimethylformamide (18.41 ml) was taken up in chloroform (64 ml) and the resulting solution was cooled in an ice bath. Phosphorus tribromide (20.18 ml) was added dropwise over 15 minutes. The resulting suspension was then heated to 70° C. for 30 minutes. A solution of 3,3-dimethylcyclohexanone (10 g) in chloroform (21 ml) was added dropwise over 30 minutes. The mixture was stirred at 70° C. for another 2 hours. The mixture was then allowed to cool to room temperature. The solution was cautiously poured over ice. Solid sodium bicarbonate was added to neutralize acid. The mixture was extracted three times with ether, and the extracts were washed with water and brine and dried (MgSO4). The solvent was removed under vacuum, and the crude material was flushed through a silica plug with ether as the eluent. After concentration, the crude material was dissolved in methanol. Sodium borohydride (1.757 g) was added cautiously. The resulting mixture was stirred at room temperature overnight, and diluted with ethyl acetate. The mixture was washed with water and brine and dried (MgSO4). The solvent was removed under vacuum, and the residue was purified by flash chromatography eluting with 20% ethyl acetate in hexanes to 100% ethyl acetate.

reactant | N,N-dimethylformamide | 18.41 ml | CN(C=O)C | C3H7NO
reactant | Phosphorus tribromide | 20.18 ml | P(Br)(Br)Br | Br3P
reactant | 3,3-dimethylcyclohexanone | 10 g | CC1(CC(CCC1)=O)C | C8H14O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 64 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 21 ml | C(Cl)(Cl)Cl | CHCl3
product | (2-bromo-4,4-dimethylcyclohex-1-enyl)methanol | BrC1=C(CCC(C1)(C)C)CO | C9H15BrO
